US04933355
Ethyl 2-[3-(3,4,5-trimethoxyphenyl)ureido]thiazol-4-yl-glyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 4.3 g of ethyl 2-aminothiazol-4-ylglyoxylate, 5 g of 3,4,5-trimethoxyphenyl isocyanate and 30 ml of dimethylformamide. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 4.3 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | 3,4,5-trimethoxyphenyl isocyanate | 5 g | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[3-(3,4,5-trimethoxyphenyl)ureido]thiazol-4-yl-glyoxylate | COC=1C=C(C=C(C1OC)OC)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C17H19N3O7S
